US07696248B2
Step C. 3-{4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester
To a mixture of 4-[1-(4′-tert-butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid (310 mg, 0.75 mmol) in methylene chloride (7 mL) are added triethyl amine (0.31 mL, 2.24 mmol), DMAP (5.0 mg), 3-amino-propionic acid methyl ester (156 mg, 1.12 mmol) and EDCI (431 mg, 2.24 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, and eluted with hexanes using a gradient from 0-100% ethyl acetate to provide 230 mg of the titled compound as a white solid. 1H-NMR.

reactant | 4-[1-(4′-tert-butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoic acid | 0.75 mmol, 310 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(CC(C)C)C1=CC=C(C(=O)O)C=C1 | C28H33NO2
reactant | triethyl amine | 2.24 mmol, 0.31 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-propionic acid methyl ester | 1.12 mmol, 156 mg | COC(CCN)=O | C4H9NO2
reactant | EDCI | 2.24 mmol, 431 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-{4-[1-(4′-tert-Butyl-biphenyl-4-ylamino)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | 230 mg | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C)=O)=O | C32H40N2O3
